US07576238B2
To 2-(6-acetylamino-3-bromo-5,6,7,8-tetrahydronaphthalen-2-ylsulfanyl}-2-methylpropionic acid tert-butyl ester (0.135 g; 0.30 mmol) dissolved in toluene (1.5 mL) was added phenylboronic acid (0.178 g; 1.46 mmol), Pd(PPh3)4 (15 mg; 0.013 mmol) and 2M Na2CO3 (0.61 mL) and the reaction mixture heated at 95° C. for 18 h. The reaction mixture was cooled, diluted with EtOAc, washed with H2O (2×), brine, dried over Na2SO4, filtered and the solvent removed under reduced pressure to yield a crude residue which was purified by flash chromatography (SiO2) eluting with a heptane-EtOAc gradient (50→100%) to yield 2-(6-acetylamino-3-phenyl-5,6,7,8-tetrahydronaphthalen-2-ylsulfanyl}-2-methyl-propionic acid tert-butyl ester as a clear oil.

reactant | 2-(6-acetylamino-3-bromo-5,6,7,8-tetrahydronaphthalen-2-ylsulfanyl}-2-methylpropionic acid tert-butyl ester | 0.30 mmol, 0.135 g | C(C)(C)(C)OC(C(C)(C)SC1=CC=2CCC(CC2C=C1Br)NC(C)=O)=O | C20H28BrNO3S
reactant | phenylboronic acid | 1.46 mmol, 0.178 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | Na2CO3 | 2M, 0.61 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 1.5 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(PPh3)4 | 0.013 mmol, 15 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(6-acetylamino-3-phenyl-5,6,7,8-tetrahydronaphthalen-2-ylsulfanyl}-2-methyl-propionic acid tert-butyl ester | C(C)(C)(C)OC(C(C)(C)SC1=CC=2CCC(CC2C=C1C1=CC=CC=C1)NC(C)=O)=O | C26H33NO3S
